US07834021B2
N-[2-({(3R)-1-[4-(6-Azetidin-1-ylpyridin-3-yl)-4-hydroxycyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide.
To a solution of 4-(6-azetidin-1-ylpyridin-3-yl)-4-hydroxycyclohexanone (115 mg, 0.467 mmol) and N-((R)-pyrrolidin-3-ylcarbamoylmethyl)-3-trifluoromethyl-benzamide (140.4 mg, 0.445 mmol) in dry CH2Cl2 (19 mL) was added Na(OAc)3BH (198 mg, 0.934 mmol) in one portion under N2 at rt. The reaction mixture was stirred under N2 overnight (16 h) and treated with Na2CO3 (aq), extrated with CH2Cl2×3, dried, filtered and concentrated to give a crude, which was purified by column chromatography (20:80:0.5 MeOH(EtOAc/NH4OH) to provide 60 mg (25%) of desired isomer product (top spot on TLC) as a white solid. MS (M+H+)=546.1. 1H NMR (CD3OD) δ 8.24 (m, 2H), 8.17 (m, 2H), 7.88 (m, 2H), 7.74 (m, 2H), 6.56 (d, 1H), 4.36 (m, 2H), 4.27 (m, 3H), 4.06 (m, 3H), 3.86 (m, 1H), 3.48 (m, 2H), 3.20 (m, 1H), 2.69 (m, 1H), 2.60 (m, 2H), 2.35-2.30 (m, 4H), 2.20-1.97 (m, 4H), 1.73 (m, 2H).

reactant | 4-(6-azetidin-1-ylpyridin-3-yl)-4-hydroxycyclohexanone | 0.467 mmol, 115 mg | N1(CCC1)C1=CC=C(C=N1)C1(CCC(CC1)=O)O | C14H18N2O2
reactant | N-((R)-pyrrolidin-3-ylcarbamoylmethyl)-3-trifluoromethyl-benzamide | 0.445 mmol, 140.4 mg | N1C[C@@H](CC1)NC(=O)CNC(C1=CC(=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
reactant | Na(OAc)3BH | 0.934 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 19 mL | C(Cl)Cl | CH2Cl2
product | N-[2-({(3R)-1-[4-(6-Azetidin-1-ylpyridin-3-yl)-4-hydroxycyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | N1(CCC1)C1=CC=C(C=N1)C1(CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)O | C28H34F3N5O3
